US09029370B2
To a solution of ethyl 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylate (5 g, 17.7 mmol) in a mixture of THF (100 ml), methanol (50 ml) and water (50 ml) lithium hydroxide hydrate (2.23 g, 53.1 mmol) was added. The solution was heated to 80° C. for 2 h. Most of the organic solvent was removed under reduced pressure. Sodium bicarbonate solution was added and the organic layer was separated. The aqueous layer was made acidic by addition of 25% aq. hydrochloric acid (until acidic pH) and the mixture was extracted two times with ethyl acetate. The organic layers were combined, dried (MgSO4) and evaporated to yield a solid. The solid was stirred in a mixture of heptane and ethyl acetate for 2 h, filtered off and dried to yield 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylic acid as an off-white solid (3.5 g, 78%) which was used for the next step.

reactant | ethyl 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylate | 17.7 mmol, 5 g | FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)OCC)F | C13H12F2N2O3
reactant | methanol | 50 ml | CO | CH4O
reactant | water | 53.1 mmol, 50 ml, 2.23 g | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-(difluoromethoxy)phenyl)-1H-pyrazole-4-carboxylic acid | 3.5 g, 78% | FC(OC=1C=C(C=CC1)N1N=CC(=C1)C(=O)O)F | C11H8F2N2O3
